US06117888
Step E: 6-Ethyloxycarbonylmethyl-7-methyl-5-oxo-3,4,5,6-tetrahydropyrido-[4,3-b]-1,4-thiazine-1,1-dioxide
A mixture of potassium carbonate (45 mg) and 3-amino-4-(2-chloroethylsulfonyl)-1-ethyloxycarbonylmethyl-6-methyl-2-pyridinone (120 mg, 0.33 mmol) in dimethyl acetamide (1.0 mL) was stirred at 160° C. for 1 h. The reaction mixture was cooled and partitioned between ethyl acetate and dilute HCl. The organic layer was washed with brine, dried (Na2SO4) and evaporated to a semi-solid. The crude product was purified by flash column chromatography on silica gel (70-100% ethyl acetate/hexanes gradient) to give the title compound as a colorless crystalline solid:

reactant | potassium carbonate | 45 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 3-amino-4-(2-chloroethylsulfonyl)-1-ethyloxycarbonylmethyl-6-methyl-2-pyridinone | 0.33 mmol, 120 mg | NC=1C(N(C(=CC1S(=O)(=O)CCCl)C)CC(=O)OCC)=O | C12H17ClN2O5S
solvent | dimethyl acetamide | 1.0 mL | CC(=O)N(C)C | C4H9NO
product | 6-Ethyloxycarbonylmethyl-7-methyl-5-oxo-3,4,5,6-tetrahydropyrido-[4,3-b]-1,4-thiazine-1,1-dioxide | C(C)OC(=O)CN1C(C2=C(S(CCN2)(=O)=O)C=C1C)=O | C12H16N2O5S
